US04775692
n-Butyl lithium (1.49N, 28.3 ml, 42.2 mmol) was added dropwise to a solution of diisopropylamine (5.9 ml, 42.2 mmol) in 50 ml of anhydrous THF at -78° C. under argon atmosphere. After the mixture was stirred at -78° C. for 20 minutes, methyl 2-methyl-3-phenylpropionate (5.00 g, 28.1 mmol) was added dropwise. After the mixture was stirred at -78° C. for 30 minutes, a solution of methyl iodide (2.6 ml, 42.2 mmol) in HMPA (1.5 ml, 8.43 mmol) was added dropwise. The reaction mixture was further stirred at -78° C. for 2 hours, and 10 ml of an aqueous saturated solution of ammonium chloride was added. The mixture was extracted with ether (50 ml×4), and then, the combined ether layers were washed with water (50 ml) and brine (50 ml), dried over anhydrous sodium sulfate, and concentrated. This residue was distilled to give a colorless oil of methyl 2,2-dimethyl-3-phenylpropionate (1.8909 g, yield 51.7%, b.p. 127.5°-131° C./18 mmHg), which was assigned the structure by the following data:

reactant | n-Butyl lithium | 42.2 mmol, 1.49N, 28.3 ml | C(CCC)[Li]
reactant | diisopropylamine | 42.2 mmol, 5.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyl 2-methyl-3-phenylpropionate | 28.1 mmol, 5.00 g | CC(C(=O)OC)CC1=CC=CC=C1 | C11H14O2
reactant | methyl iodide | 42.2 mmol, 2.6 ml | CI | CH3I
reactant | HMPA | 8.43 mmol, 1.5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 2,2-dimethyl-3-phenylpropionate | 1.8909 g, yield 51.7% | CC(C(=O)OC)(CC1=CC=CC=C1)C | C12H16O2
